US07910774B2
A solution of 387 g of L-pyro-glutamic acid in 300 mL of dimethylformamide is treated with 103.6 g of potassium carbonate at room temperature. Benzyl bromide (35.6 mL) is added and the suspension stirred room temperature for 4 hours. The suspension is filtered and the solid washed with 300 mL of acetone. The filtrate is evaporated at 50° C. to give an oil. The oil is dissolved in 300 mL of ethyl acetate and washed with 300 mL of water. The aqueous phase is re-extracted with 150 mL of ethyl acetate and the organic layers combined, dried and the solvent removed to give (S)-5-oxo-pyrrolidine-2-carboxylic acid benzyl ester as an oil.

reactant | L-pyro-glutamic acid | 387 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | potassium carbonate | 103.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 35.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (S)-5-oxo-pyrrolidine-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1NC(CC1)=O | C12H13NO3
